US07585885B2
(S)-2-sec-Butylamino-6-cyano-isonicotinic acid
Dissolve (S)-2-sec-butylamino-6-cyano-isonicotinic acid methyl ester (250 mg, 0.93 mmol) in methanol (3 mL). Slowly add 2 N NaOH (1.5 mL) and stir overnight at room temperature. Acidify to about pH=6 with 5 N HCl and concentrate. Dilute with ethyl acetate (20 mL) and wash the organic layer with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | (S)-2-sec-butylamino-6-cyano-isonicotinic acid methyl ester | 0.93 mmol, 250 mg | COC(C1=CC(=NC(=C1)C#N)N[C@@H](C)CC)=O | C12H15N3O2
reactant | NaOH | 2 N, 1.5 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | (S)-2-sec-Butylamino-6-cyano-isonicotinic acid | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)C#N | C11H13N3O2
